US06818772B2
cis-N-(7-chloroquinolin-4-yl)cyclohexane-1,4-diamine
A mixture of 4,7-dichloroquinoline(2 g, 10.2 mmol) and 1,4-cyclohexanediamine (2.5 g, 21.9 mmol) was heated at 250° C. for 15 hours, cooled to room temperature, diluted with ethanol, and filtered. The residue was extracted with chloroform from 50%NaOH solution. The extract was dried with Na2SO4 and MgSO4, filtered and concentrated to give the desired compound. MS (ESI(+)Q1MS m/z 276 (M+H)+.

reactant | 4,7-dichloroquinoline | 10.2 mmol, 2 g | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | 1,4-cyclohexanediamine | 21.9 mmol, 2.5 g | C1(CCC(CC1)N)N | C6H14N2
solvent | ethanol | C(C)O | C2H6O
product | cis-N-(7-chloroquinolin-4-yl)cyclohexane-1,4-diamine | ClC1=CC=C2C(=CC=NC2=C1)N[C@@H]1CC[C@@H](CC1)N | C15H18ClN3
